US05158970
Preparation of N-benzyloxycarbonyl-D-prolyl-L-prolinal dimethyl acetal
L-prolinal dimethyl acetal hydrochloride obtained in the same manner as in Example 1 is dissolved in dimethylformamide (4 ml) containing tert-butoxycarbonyl-D-proline (790 mg, 3.17 mmol) and diethylphosphoryl cyanide (0.48 ml, 3.16 mmol). To the solution is added dropwise triethylamine (1.15 ml, 8.25 mmol) under cooling and agitation in an ice-methanol bath. The mixture is continued to be stirred for one hour under cooling and then for one hour at room temperature. Benzene-ethyl acetate (2:1, 150 ml) is added to the reaction mixture, and the organic layer is separated, washed successively with a saturated aqueous solution of sodium hydrogen carbonate (15 ml), water (15 ml) and a saturated aqueous solution of edible salt (15 ml), dried over sodium sulfate and filtered. The filtrate is concentrated to dryness under reduced pressure. The residue is purified by column chromatography on silica gel (benzene-ethyl acetate, 1:2→1:1) to give 713 mg (63%) of the title compound as a pale yellow syrup.

reactant | tert-butoxycarbonyl-D-proline | 3.17 mmol, 790 mg | C(C)(C)(C)OC(=O)N1[C@@H](C(=O)O)CCC1 | C10H17NO4
reactant | diethylphosphoryl cyanide | 3.16 mmol, 0.48 ml | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | triethylamine | 8.25 mmol, 1.15 ml | C(C)N(CC)CC | C6H15N
reactant | Benzene ethyl acetate | 150 ml | C1=CC=CC=C1.C(C)(=O)OCC
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-benzyloxycarbonyl-D-prolyl-L-prolinal dimethyl acetal | 713 mg, 63% | COC([C@H]1N(CCC1)C([C@@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)OC | C20H28N2O5
